US06197959B1
To a well stirred solution of 0.130 g (0.190 mmol) of (3R,4R)-3-[1-(3-cyano-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester in 0.5 ml of absolute THF was added dropwise 1 ml of a 1M solution of borane-THF complex in THF. After stirring for 3 h at 70° C., the reaction was allowed to warm to room temperature, poured into 50 ml of an ice/water mixture and extracted three times with 50 ml of ethyl acetate. The combined organic phases were washed twice with 20 ml of water, evaporated under reduced pressure and dried in a high vacuum. The thus-obtained crude product was purified by chromatography on silica gel using a 140:10:1 v/v/v mixture of dichloromethane/methanol/28% ammonium hydroxide solution as the eluent to yield 0.090 g (0.131 mmol, 68.9% of theory) of (3R,4R)-3-[1-(4-amino-butyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as a light yellow oil; MS: 688 (M+H)+.

reactant | (3R,4R)-3-[1-(3-cyano-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.190 mmol, 0.130 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCCC#N | C41H53N3O6
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (3R,4R)-3-[1-(4-amino-butyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.131 mmol, 0.090 g, 68.9% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCCCN | C41H57N3O6
